US05631401
3-Phenylpiperidine
A mixture of 3-phenylpyridine (8.0 g, 51.5 mmol), PtO2 (0.8 g), 234 mL of H2O, and 16 mL of concentrated HCl was hydrogenated in a Parr shaker at room temperature for 24 hours. The mixture was filtered, and the filtrate was cooled to 0° C. and was basified with 10N NaOH solution. The mixture was extracted (4×) with CH2Cl2. The combined organic layers were washed with saturated NaCl solution, dried (MgSO4), filtered, and concentrated in vacuo to afford the title compound (7.5 g ) as a clear oil. 1H NMR (300 MHz, CDCl3) δ 1.62 (t, 2H), 1.80 (m, 1H), 2.01 (m, 1H), 2.67 (m, 3H), 3.05-3.23 (m, 2H), 7.20 (d, 2H), 7.29 (t, 3H). MS (DCl/NH3) m/e 162 (M+H)+.

reactant | 3-phenylpyridine | 51.5 mmol, 8.0 g | C1(=CC=CC=C1)C=1C=NC=CC1 | C11H9N
reactant | HCl | 16 mL | Cl | ClH
catalyst | PtO2 | 0.8 g | O=[Pt]=O
solvent | H2O | 234 mL | O | H2O
product | 3-Phenylpiperidine | 7.5 g | C1(=CC=CC=C1)C1CNCCC1 | C11H15N
